US08461355B2
The diethyl thioglycolate and diethyl oxalate are mixed, and then added to a first solution containing a first electron donor in the microwave reactor. The microwave reactor is heated by the 2.45 GHz microwave at a power of 100-500 W to perform a condensation reaction for 20-60 minutes to obtain 2,5-diethoxycarbonyl-3,4-dihydroxythiophene.

reactant | diethyl thioglycolate | CCOC(=O)CSCC(=O)OCC | C8H14O4S
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2,5-diethoxycarbonyl-3,4-dihydroxythiophene | C(C)OC(=O)C=1SC(=C(C1O)O)C(=O)OCC | C10H12O6S
